US09034898B2
Step 1.3 benzyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate
Benzyl bromide (11 mL/89 mol) is added dropwise to a suspension of 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (27.0 g/93.9 mmol) and potassium carbonate (15.6 g/112 mmol) in 310 mL of DMF. The mixture is stirred at ambient temperature for 2 hours and then run into a saturated aqueous solution of ice-cold NaHCO3. The precipitate formed is filtered, thoroughly washed with water, and dried under vacuum to give 32.6 g of a pale yellow powder (yield: 92%).

reactant | Benzyl bromide | 89 mol, 11 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 93.9 mmol, 27.0 g | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)O)Cl | C14H10ClN3O2
reactant | potassium carbonate | 112 mmol, 15.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 310 mL | CN(C)C=O | C3H7NO
product | benzyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 32.6 g, yield: 92% | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC2=CC=CC=C2)Cl | C21H16ClN3O2
